*FDP7030L ELECTRICAL MODEL

* ------------------------

.SUBCKT  FDP7030L 20  10  30

Rg     10    1    3

M1      2    1    3    3    DMOS    L=1u   W=1u

.MODEL DMOS NMOS (VTO=2  KP=65	THETA=0.086  VMAX=1.4E5  LEVEL=3)

Cgs     1    3    1800p

Rd     20    4    1.5m TC=0.0044

Dds     3    4    DDS

.MODEL     DDS    D(BV={30*{0.00144*TEMP+0.964}}   M=0.377  CJO=1083p   VJ=1.22)

Dbody   3   20    DBODY

.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=37.9m   TT=55n)

Ra      4    2    1.5m TC=0.0044

Rs      3    5    0.2m

Ls      5    30   5n

M2      1    8    6    6   INTER

E2      8    6    4    1   2

.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)

Cgdmax  7    4    4000p

Rcgd    7    4    10meg

Dgd     6    4    DGD

Rdgd    4    6    10meg

.MODEL     DGD    D(M=0.5   CJO=4000p   VJ=0.193)

M3      7    9    1    1   INTER

E3      9    1    4    1   -2

.ENDS FDP7030L

*

.SUBCKT   7030LTHM   50  40  100



Rop       50   60   1meg                         ; From input power, use ideal

Cop       60   70   1u   IC=0                    ; opamp to get energy W(t),

E_W       40   70   40   60  1meg                ; assume Rin=infinite & Ro=0



E_Pave    80   40   VALUE = {V(40,70)/(TIME+1n)} ; Get average power by W(t)/t

R80       80   40   1k



E_Tjc    100   40   VALUE = {V(80,40)*1.2*V(90,40)}; Tja=Pave(t)*RJC*rjc(t)

R100     100   40   1k                             ; where RJC=1.2 deg/W



R90       90   40   1k

E_rjc     90   40   table {TIME}                  ; Normalized FDP7030L Single Pulsed rjc(t)

+ (1e-005, 0.0156008)

+ (1.5e-005, 0.019107)

+ (2e-005, 0.0220629)

+ (3e-005, 0.0270214)

+ (4e-005, 0.0312016)

+ (5e-005, 0.0348845)

+ (7e-005, 0.0412759)

+ (0.0001, 0.0493341)

+ (0.00015, 0.0604217)

+ (0.0002, 0.069769)

+ (0.0003, 0.0854492)

+ (0.0004, 0.0986682)

+ (0.0005, 0.110314)

+ (0.0007, 0.130526)

+ (0.001, 0.156008)

+ (0.0015, 0.19107)

+ (0.002, 0.220629)

+ (0.00300068, 0.269488)

+ (0.004, 0.30695)

+ (0.00500875, 0.338816)

+ (0.007, 0.38417)

+ (0.0100302, 0.427714)

+ (0.015, 0.476191)

+ (0.0201171, 0.51115)

+ (0.0302385, 0.557729)

+ (0.0401603, 0.588408)

+ (0.0499347, 0.613516)

+ (0.0701816, 0.651838)

+ (0.0993117, 0.689666)

+ (0.150433,  0.734277)

+ (0.2, 0.766409)

+ (0.3, 0.814672)

+ (0.4, 0.848456)

+ (0.499014, 0.871326)

+ (0.694928, 0.901643)

+ (1, 0.929537)

+ (1.50854, 0.955371)

+ (1.99969, 0.970572)

+ (3.01226, 0.986282)

+ (4, 0.994209)

+ (4.98949, 0.997334)

+ (6.99375, 0.99942)

+ (10.009, 0.99942)

.ENDS 7030LTHM

*

