*FDQ4001L SPICE MODEL
*
* Q1 ELECTRICAL MODEL
* -------------------
.SUBCKT  Q1  20  10  30
Rg     10    1    1
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS NMOS (VTO={0.9*(-0.00232*TEMP+1.058)}  KP={-0.0005*TEMP+0.32}  THETA=0.096
+ VMAX=3.8E5  LEVEL=3)
Cgs     1    3    90p
Rd     20    4    .7 TC=0.006
Dds     3    4    DDS
.MODEL     DDS    D(BV={25*(0.001*TEMP+0.975)}   M=0.36  CJO=23p   VJ=0.8)
Dbody   3   20    DBODY
.MODEL   DBODY    D(IS=1.4E-13   N=1   RS=40m   TT=100n)
Ra      4    2    .7 TC=0.006
Rs      3    5    10m
Ls      5    30   .7n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    NMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    25p
Rcgd    7    4    10meg
Dgd     6    4    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.53   CJO=25p   VJ=0.1)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
DZENER   30   10    DZENER
.MODEL DZENER  D(BV=8V)
.ENDS Q1
*
* Q2 ELECTRICAL MODEL
* -------------------
.SUBCKT  Q2  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-1.8*{-0.0024*TEMP+1.06}}  KP={-0.025*TEMP+24}
+  THETA=0.086  VMAX=5.0E5  LEVEL=3)
Cgs     1    3    1100p
Rd     20    4    7m TC=0.004
Dds     4    3    DDS
.MODEL     DDS    D(BV={30*{0.00084*TEMP+0.979}}   M=0.35  CJO=1000p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1E-12   N=1   RS=12.7m   TT=25n)
Ra      4    2    7m TC=0.004
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    3300p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=3300p   VJ=0.1)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS Q2
*
* Q3 ELECTRICAL MODEL
* -------------------
.SUBCKT  Q3  20  10  30
Rg     10    1    3
M1      2    1    3    3    DMOS    L=1u   W=1u
.MODEL DMOS PMOS (VTO={-1.8*{-0.0024*TEMP+1.06}}  KP={-0.025*TEMP+24}
+  THETA=0.086  VMAX=5.0E5  LEVEL=3)
Cgs     1    3    1100p
Rd     20    4    7m TC=0.004
Dds     4    3    DDS
.MODEL     DDS    D(BV={30*{0.00084*TEMP+0.979}}   M=0.35  CJO=1000p   VJ=0.8)
Dbody   20   3    DBODY
.MODEL   DBODY    D(IS=1E-12   N=1   RS=12.7m   TT=25n)
Ra      4    2    7m TC=0.004
Rs      3    5    1m
Ls      5    30   0.9n
M2      1    8    6    6   INTER
E2      8    6    4    1   2
.MODEL   INTER    PMOS(VTO=0  KP=10   LEVEL=1)
Cgdmax  7    4    3300p
Rcgd    7    4    10meg
Dgd     4    6    DGD
Rdgd    4    6    10meg
.MODEL     DGD    D(M=0.5   CJO=3300p   VJ=0.1)
M3      7    9    1    1   INTER
E3      9    1    4    1   -2
.ENDS Q3

